US07435837B2
To a solution of 4-ethylphenol (10.0 g, 82.0 mmol) in acetonitrile (250 mL) cooled to 0° C. was slowly added N-bromosuccinimide (16.0 g, 90 mmol) and the reaction mixture was allowed to stir at 0° C. for 1 h. The solvent was removed in vacuo and the reaction mixture was diluted with ice water (500 mL) and diethyl ether (500 mL). A solid precipitate was removed via filtration and the aqueous phase was separated and extracted with ethyl ether (2×200 mL). The combined organic extracts were washed with saturated aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9) gave 8.35 g (51%). Treatment of 2-bromo-4-ethylphenol (8.35 g, 41.0 mmol) with potassium carbonate (14.3 g, 100 mmol) and allyl bromide (6.57 g, 130 mmol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 2-allyl-6-bromo-4-ethylphenol. Treatment of 2-allyl-6-bromo-4-ethylphenol (5.18, 22.0 mmol) with 3-chloroperoxybenzoic acid (8.60 g, 33.0 mmol, 77%) followed by potassium carbonate (7.4 g, 55.0 mmol) generally according to the procedure described for Intermediate 9 afforded 3.94 g (70%) of (±)-(7-bromo-5-ethyl-2,3-dihydro-1-benzofuran-2-yl)methanol. Treatment of (±)-(7-bromo-5-ethyl-2,3-dihydro-1-benzofuran-2-yl)methanol (3.94 g, 15.0 mmol) with p-toluenesulfonyl chloride (3.5 g, 18.0 mol) generally according to the procedure described for Intermediate 10 gave 5.78 g (92%) of (±)-(7-bromo-5-ethyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a colorless oil. Treatment of (±)-(7-bromo-5-ethyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.30 g, 0.73 mmol) and 2-methylphenylboronic acid (0.30 g, 2.19 mmol) generally according to the procedure described for Intermediate 35 afforded 0.30 g, (97%) of (±)-(5-ethyl-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (0.23 g, 3.55 mmol) generally according to the procedure described for Intermediate 98 afforded 0.16 g (77%) of (±)-2-(azidomethyl)-5-ethyl-7-phenyl-2,3-dihydro-1-benzofuran. Treatment of (±)-2-(azidomethyl)-5-ethyl-7-phenyl-2,3-dihydro-1-benzofuran with polymer-supported triphenylphosphine (0.786 g, 0.869 mmol) according to the procedure described in Example 154 afforded 0.009 g (4%) of (±)-[(5-ethyl-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl]amine as a white solid, hydrochloride salt. mp 198° C. (dec).

reactant | (±)-2-(azidomethyl)-5-ethyl-7-phenyl-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=C(C=C2C2=CC=CC=C2)CC | C17H17N3O
reactant | triphenylphosphine | 0.869 mmol, 0.786 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (±)-[(5-ethyl-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl]amine | 0.009 g, 4% | C(C)C=1C=C(C2=C(CC(O2)CN)C1)C1=CC=CC=C1 | C17H19NO
